US04285939
(a) 6,7-Diacetoxychromone-3-carbonyl chloride
A mixture of 6,7-Diacetoxychromone-3-carboxylic acid (918 mg, 3 mmol), benzene (20 ml), thionyl chloride (260 μl, 3.6 mmol) and N,N-dimethylformamide (0.2 ml) was refluxed for 2 hours and the solvent was removed. Benzene (5 ml) was added and then evaporated. This was repeated twice to remove traces of thionyl chloride. The residual solid was collected to afford the desired compound.

reactant | 6,7-Diacetoxychromone-3-carboxylic acid | 3 mmol, 918 mg | C(C)(=O)OC=1C=C2C(C(=COC2=CC1OC(C)=O)C(=O)O)=O | C14H10O8
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 3.6 mmol, 260 μl | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 6,7-Diacetoxychromone-3-carbonyl chloride | C(C)(=O)OC=1C=C2C(C(=COC2=CC1OC(C)=O)C(=O)Cl)=O | C14H9ClO7
